US05147893
trans-2-[[2-[[3,5-Bis(1,1-dimethylethyl)phenyl]thio]cyclohexyl]thio]-N-methyl-N-(2-pyridinylethyl)acetamide
Oxalyl chloride (0.19 g, 0.0015 moles) was added by syringe to a cold (10° C.) solution of trans-[[2-[[3,5-bis(1,1-dimethylethyl)phenyl]thio]cyclohexyl]thio]acetic acid (0.55 g, 0.0014 moles) in benzene (50 ml). The cold bath was removed and the reaction mixture was stirred at room temperature for 20 hours. The reaction mixture was concentrated to an oil (rotary evaporator). The oil was dissolved in toluene (50 ml) and concentrated to an oil. The process was repeated using tetrahydrofuran (25 ml) instead of toluene. The residue was dissolved in tetrahydrofuran (50 ml). To this solution was added 2-(2-methylaminoethyl)pyridine (0.19 g, 0.0014 moles) and triethylamine (0.22 g) and the reaction mixture was stirred at room temperature for 48 hours. The white solid precipitate was removed by filtration and washed with ethyl acetate (25 ml). The filtrate was concentrated to give the crude product as an oil. The product was purified by silica gel chromatography and dried in vacuo at 100° C. for 1 hour to give the title compound. The structure assignment was supported by NMR, infrared spectroscopy and elemental analysis.

reactant | Oxalyl chloride | 0.0015 moles, 0.19 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | trans-[[2-[[3,5-bis(1,1-dimethylethyl)phenyl]thio]cyclohexyl]thio]acetic acid | 0.0014 moles, 0.55 g | CC(C)(C)C=1C=C(C=C(C1)C(C)(C)C)S[C@H]1[C@@H](CCCC1)SCC(=O)O | C22H34O2S2
reactant | 2-(2-methylaminoethyl)pyridine | 0.0014 moles, 0.19 g | CNCCC1=NC=CC=C1 | C8H12N2
reactant | triethylamine | 0.22 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | trans-2-[[2-[[3,5-Bis(1,1-dimethylethyl)phenyl]thio]cyclohexyl]thio]-N-methyl-N-(2-pyridinylethyl)acetamide | CC(C)(C)C=1C=C(C=C(C1)C(C)(C)C)S[C@H]1[C@@H](CCCC1)SCC(=O)N(CCC1=NC=CC=C1)C | C30H44N2OS2
